US06090813
4-Chloropyrimidine (1.72 g) and triethylamine (5.3 ml) were added to a solution of 4-(1-(6-chloronaphth-2-ylsulphonyl)piperazin-4-ylcarbonyl)piperidine (4 g) in ethanol (100 ml) and the mixture heated on a steam bath overnight. The mixture was cooled to give a precipitate which was collected to filtration and recrystallised from acetonitrile to give 1-(6-chloronaphth-2-ylsulphonyl)-4-[1-[4-pyrimidinyl]piperidin-4-ylcarbonyl]piperazine (2.88 g); mp 218-219° C.;

reactant | 4-Chloropyrimidine | 1.72 g | ClC1=NC=NC=C1 | C4H3ClN2
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(6-chloronaphth-2-ylsulphonyl)piperazin-4-ylcarbonyl)piperidine | 4 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCNCC1 | C20H24ClN3O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(6-chloronaphth-2-ylsulphonyl)-4-[1-[4-pyrimidinyl]piperidin-4-ylcarbonyl]piperazine | 2.88 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=NC=NC=C1 | C24H26ClN5O3S
